US05221315
5.28 g of 3-fluoropyridin-2-ylsulfonamide and 18.03 ml of allylamine are stirred for 6 hours in a pressurised vessel at a temperature of 125° C. The reaction solution is subsequently concentrated, the crystallisate obtained is dissolved in methylene chloride and a little acetonitrile, the mixture is purified by chromatography using methylene chloride/ethyl acetate (4:1) as the eluent mixture and silica gel as the carrier material. 5.1 g of 3-allylaminopyridin-2-ylsulfonamide (intermediate No. 2.002) of a melting point of 134°-135° C. are obtained.

reactant | 3-fluoropyridin-2-ylsulfonamide | 5.28 g | FC=1C(=NC=CC1)S(=O)(=O)N | C5H5FN2O2S
reactant | allylamine | 18.03 ml | C(C=C)N | C3H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-allylaminopyridin-2-ylsulfonamide | 5.1 g | C(C=C)NC=1C(=NC=CC1)S(=O)(=O)N | C8H11N3O2S
